US08487115B2
(1R)-trans-3-[(1Z)-2-cyano-1,3-butadienyl]-2,2-dimethylcyclopropanecarboxylic acid (440 mg, 2.30 mmol) was dissolved in 3 mL of tetrahydrofuran and then thionyl chloride (301 mg, 2.53 mmol) and 10 mg of N,N-dimethylformamide were added and the solution was stirred at room temperature for 1 hours, and further at 60° C. of 3 hours. The reaction solution was concentrated under reduced pressure condition to obtain 460 mg of (1R)-trans-3-[(1Z)-2-cyano-1,3-butadienyl]-2,2-dimethylcyclopropanecarboxylic acid chloride represented by the following formula:

reactant | (1R)-trans-3-[(1Z)-2-cyano-1,3-butadienyl]-2,2-dimethylcyclopropanecarboxylic acid | 2.30 mmol, 440 mg | C(#N)\C(=C/[C@H]1C([C@@H]1C(=O)O)(C)C)\C=C | C11H13NO2
reactant | thionyl chloride | 2.53 mmol, 301 mg | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
catalyst | N,N-dimethylformamide | 10 mg | CN(C=O)C | C3H7NO
product | (1R)-trans-3-[(1Z)-2-cyano-1,3-butadienyl]-2,2-dimethylcyclopropanecarboxylic acid chloride | 460 mg | C(#N)\C(=C/[C@H]1C([C@@H]1C(=O)Cl)(C)C)\C=C | C11H12ClNO
